US04211783
Preparation of 1-carboxyethyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoate
A flask containing 10.0 g. 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoic acid, 3.3 g. lactic acid, 500 mg. toluene sulfonic acid and 500 ml. toluene is equipped with a Soxhlet extractor charged with activated 4A Linde molecular sieves. The solution is refluxed for 24 hours during which time the Soxhlet extractor is charged twice more with fresh sieves. The hot solution is filtered and left to cool, whereupon 1-carboxyethyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]-benzoate separates as off-white crystals.

reactant | 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoic acid | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C26H32ClNO2
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | toluene sulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-carboxyethyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoate | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)OC(C)C(=O)O)C=C1 | C29H36ClNO4
